US04120856
To a well stirred solution of 3.0 g (0.01 mol) of 3-fluoro-1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one, 75 ml of dry THF and 21.78 g (0.18 mol) of 3-bromopropene, was added a suspension of 0.48 g (0.02 mol) of sodium hydride in 20 ml of THF. There was an immediate evolution of hydrogen. The contents of the flask were stirred under a nitrogen atmosphere for exactly two hours. The product mixture was poured into 100 ml of water and methylene chloride was added to extract the product. The organic layer was washed twice with 50 ml portions of water, and then allowed to dry over magnesium sulfate. Evaporation of the solvent under reduced pressure gave an orange gluey material which was recrystallized from 450 ml of hot heptane to give 1.42 g of 3-fluoro-1-(allyl)-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one as a very pale orange powder: mp 138°-140°, 1H nmr (CDCl3) δ 7.2-7.9 ppm (m, 8H), δ 5.6 ppm (d, J = 57.5 Hz, 1H), δ 4.85-5.95 ppm (m, 3H, olefinic), δ 4.58 ppm (2H, N--CH2); 19F nmr (CDCl3) δ 161.97 ppm.

reactant | 3-fluoro-1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.01 mol, 3.0 g | FC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C15H10ClFN2O
reactant | 3-bromopropene | 0.18 mol, 21.78 g | BrCC=C | C3H5Br
reactant | sodium hydride | 0.02 mol, 0.48 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 3-fluoro-1-(allyl)-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | 1.42 g | FC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)CC=C)=O | C18H14ClFN2O
